US08754229B2
To a solution of methyl 6-acetyl-4-amino-3-methoxypicolinate (0.800 g, 3.57 mmol) in DCE (11.89 ml) was added di-tert-butyl dicarbonate (2.336 g, 10.70 mmol) and N,N-dimethylpyridin-4-amine (0.065 g, 0.535 mmol). The reaction mixture was stirred at room temperature overnight. The mixture was adsorbed onto celite and purified by flash column chromatography (ISCO, SiO2, 40 g, hexane/EtOAc 100:0 to 0:100 gradient) to afford methyl 6-acetyl-4-[bis(tert-butoxycarbonyl)amino]-3-methoxypyridine-2-carboxylate (1.34 g, 3.16 mmol, 88% yield) as a colorless oil. ESIMS m/z 425 ([M+H]+); 1H NMR (400 MHz, CDCl3) δ 7.95 (s, 1H), 4.02 (s, 3H), 3.92 (s, 3H), 2.71 (s, 3H), 1.42 (s, 18H); 13C NMR (101 MHz, CDCl3) δ 198.07, 165.21, 154.04, 150.15, 148.89, 143.72, 142.39, 124.67, 84.30, 62.27, 53.11, 27.90, 25.60.

reactant | methyl 6-acetyl-4-amino-3-methoxypicolinate | 3.57 mmol, 0.800 g | C(C)(=O)C1=CC(=C(C(=N1)C(=O)OC)OC)N | C10H12N2O4
reactant | di-tert-butyl dicarbonate | 10.70 mmol, 2.336 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCE | 11.89 ml | ClCCCl | C2H4Cl2
catalyst | N,N-dimethylpyridin-4-amine | 0.535 mmol, 0.065 g | CN(C1=CC=NC=C1)C | C7H10N2
product | methyl 6-acetyl-4-[bis(tert-butoxycarbonyl)amino]-3-methoxypyridine-2-carboxylate | 3.16 mmol, 1.34 g, 88% yield | C(C)(=O)C1=CC(=C(C(=N1)C(=O)OC)OC)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C20H28N2O8
